* C:\Users\Agus\Documents\GitHub\E2-TPs\TP2\TP2\AmplificadorXD.asc
C1 N024 Vin 22µ
C2 N025 N024 22µ
R1 N025 0 120k
Q1 N034 N025 N021 0 2N2907
Q2 N041 N020 N022 0 2N2907
Q3 N034 N041 N047 0 2N2222
Q4 N041 N041 N048 0 2N2222
R2 N047 V- 68
R3 N048 V- 68
R4 N015 N021 100
R5 N015 N022 100
Q5 N015 N005 N004 0 2N2907
R6 V+ N004 150
C4 V+ 0 220µ
R7 Iref N005 1k
R8 N020 N031 330
C5 N031 0 220µ
D1 0 N031 D
R9 N026 N020 330
C6 VoFeed N026 5p
R10 VoFeed N020 10k
C7 NC_01 N034 150p
R11 N034 V- 2k2
C8 N032 N034 3n
Q6 0 N034 N043 0 2N2222
Q7 N034 N045 V- 0 2N2222
R12 N046 N045 1k
R13 V- N043 1k
R14 V- N046 47
Q8 N032 N043 N046 0 2N2222
C9 V+ N013 47µ
R15 Iref N013 10k
R16 N013 0 10k
Q9 Iref N001 V+ 0 2N2907
R17 N002 N001 1k
R18 N006 Iref 1k
R19 N002 V+ 100
Q10 N008 N006 N002 0 2N2907
R20 N008 N014 15
R22 N023 N008 820
C10 N008 N032 47µ
Q11 N014 N023 N032 0 2N2222
R23 N023 N027 100
XU1 N027 N032 N032 pot R=1K cur=.4
D2 N014 N017 D
Q12 N017 N018 VoFeed 0 2N2222
Q13 N033 N029 VoFeed 0 2N2907
D3 N033 N032 D
R25 N018 VoFeed 120
R26 VoFeed N029 120
R27 VoFeed N030 0.22
R28 N019 VoFeed 0.22
R29 N019 N018 270
R30 N030 N029 270
R31 N028 VoFeed 10
C11 N028 0 0.1µ
Q14 N039 N032 N030 0 2N2907
R32 N029 V- 15k
R33 N039 V- 100
R34 Vout VoFeed 10
L1 VoFeed Vout 1µ
R35 V+ N018 15k
R36 V+ N009 100
Q16 N009 N014 N019 0 2N2222
V1 V+ 0 20
V2 0 V- 20
V3 Vin 0 SINE(0 {Vin} {Freq} 0 0 0) AC 0.5
RL Vout 0 10
R38 VoFeed N038 10k
R39 N038 0 1k
Q18 N040 N038 N035 0 PNP
Q19 N042 0 N036 0 PNP
R40 N016 N035 1k1
R42 N040 V- 470
R43 N042 V- 470
Q20 N037 N040 N044 0 NPN
Q21 N044 N037 VoFeed 0 PNP
R44 VoFeed N037 470
R45 N044 V- 0.68
D4 V- VoFeed D
R41 N016 N036 1k1
Q22 NC_02 N010 N007 0 PNP
R46 V+ N007 100
D5 V+ N003 D
D6 N003 N010 D
R47 N010 0 47k
D7 VoFeed V+ D
C14 V- 0 220µ
C3 V+ N005 47µ
C12 V- 0 200n
C13 V+ 0 200n
XU2 N019 N009 V+ TIP115
XU3 N030 N039 V- TIP110
R21 N012 Iref 1k
C15 V+ N012 47µ
Q15 N016 N012 N011 0 2N2907
R24 V+ N011 150
.model D D
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.bjt
;.fourier 1000 V(Vout)
;.tran 0 50m 40m 0.5u ;50m 40m 0.5u
;.fourier 10000 V(Vout)
;.tran 0 10.5m 5.5m 0.5u
.param Vin 0.5
.param Freq 10k
* polo dominante de todo el circuito
.ac dec 100 1 1Meg
.lib TCLib/pot.lib
.lib TCLib/TIP110.lib
.lib TCLib/TIP115.lib
.backanno
.end
