* C:\Users\Agus\Documents\GitHub\E2-TPs\TP2\TP2\AmplificadorXD.asc
C1 N022 Vin 22µ
C2 N023 N022 22µ
R1 N023 0 120k
Q1 N030 N023 N019 0 2N2907
Q2 N037 N018 N020 0 2N2907
Q3 N030 N037 N043 0 2N2222
Q4 N037 N037 N044 0 2N2222
R2 N043 V- 68
R3 N044 V- 68
R4 N015 N019 100
R5 N015 N020 100
Q5 N015 N005 N004 0 2N2907
R6 V+ N004 150
C4 V+ 0 220µ
R7 Iref N005 1k
R8 N018 N028 330
C5 N028 0 23µ
D1 0 N028 D
R9 N024 N018 330
C6 VoFeed N024 5p
R10 VoFeed N018 10k
C7 NC_01 N030 150p
C8 N029 N030 300p
Q6 0 N030 N039 0 2N2222
Q7 N030 N041 V- 0 2N2222
R12 N042 N041 1k
R13 V- N039 1k
R14 V- N042 47
Q8 N029 N039 N042 0 2N2222
C9 V+ N013 47µ
R15 Iref N013 10k
R16 N013 0 10k
Q9 Iref N001 V+ 0 2N2907
R17 N002 N001 1k
R18 N006 Iref 1k
R19 N002 V+ 100
Q10 N008 N006 N002 0 2N2907
R20 N008 N014 15
R22 N021 N008 820
C10 N008 N029 47µ
Q11 N014 N021 N029 0 2N2222
R23 N021 N025 100
XU1 N025 N029 N029 pot R=1K cur=.4
R27 VoFeed N027 0.22
R28 N017 VoFeed 0.22
R31 N026 VoFeed 10
C11 N026 0 0.1µ
Q14 N035 N029 N027 0 2N2907
R33 N035 V- 100
R34 Vout VoFeed 10
L1 VoFeed Vout 1µ
R36 V+ N009 100
Q16 N009 N014 N017 0 2N2222
V1 V+ 0 20
V2 0 V- 20
V3 Vin 0 SINE(0 {Vin} {Freq} 0 0 0) AC 0.5
RL Vout 0 10
R38 VoFeed N034 10k
R39 N034 0 1k
Q18 N036 N034 N031 0 PNP
Q19 N038 0 N032 0 PNP
R40 N016 N031 1k1
R42 N036 V- 470
R43 N038 V- 470
Q20 N033 N036 N040 0 NPN
Q21 N040 N033 VoFeed 0 PNP
R44 VoFeed N033 470
R45 N040 V- 0.68
D4 V- VoFeed D
R41 N016 N032 1k1
Q22 NC_02 N010 N007 0 PNP
R46 V+ N007 100
D5 V+ N003 D
D6 N003 N010 D
R47 N010 0 47k
D7 VoFeed V+ D
C14 V- 0 220µ
C3 V+ N005 47µ
C12 V- 0 200n
C13 V+ 0 200n
XU2 N017 N009 V+ TIP115
XU3 N027 N035 V- TIP110
R21 N012 Iref 1k
C15 V+ N012 47µ
Q15 N016 N012 N011 0 2N2907
R24 V+ N011 150
.model D D
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.bjt
;.fourier 1000 V(Vout)
;.tran 0 50m 40m 0.5u ;50m 40m 0.5u
;.fourier 10000 V(Vout)
;.tran 0 10.5m 5.5m 0.5u
.param Vin 0.5
.param Freq 10k
* polo dominante de todo el circuito
.ac dec 100 1 1Meg
.lib TCLib/pot.lib
.lib TCLib/TIP110.lib
.lib TCLib/TIP115.lib
.backanno
.end
